US06110924
5-phenyl-5-[4-(2-hydroxyethylidene)piperidinyl]barbituric acid
A mixture of 5-bromo-5-phenylbarbituric acid (2.45 g), 4-(hydroxyethylidene)piperidine (1.053 g) and triethylamine (1.15 ml) in 50 ml of ethanol is refluxed for 2 hours. The solvent is evaporated under reduced pressure and the residue is purified by silica gel chromatography (40 g; eluent: ethyl acetate/petroleum ether 8:2), to give 450 mg of the product.

reactant | 5-bromo-5-phenylbarbituric acid | 2.45 g | BrC1(C(NC(NC1=O)=O)=O)C1=CC=CC=C1 | C10H7BrN2O3
reactant | 4-(hydroxyethylidene)piperidine | 1.053 g | OCC=C1CCNCC1 | C7H13NO
reactant | triethylamine | 1.15 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-phenyl-5-[4-(2-hydroxyethylidene)piperidinyl]barbituric acid | 450 mg | C1(=CC=CC=C1)C1(C(NC(NC1=O)=O)=O)N1CCC(CC1)=CCO | C17H19N3O4
